US05095014
3-(2,4-Dichlorophenoxy)-N,N,-dimethyl-1-azetidinecarboxamide
A stirred solution of 4.8 g (0.017 mole) of 3-(2,4-dichlorophenoxy)-1-azetidinecarbonyl chloride in 20 mL of tetrahydrofuran was treated with 5.8 mL (0.05 mole) of 40% aqueous dimethylamine. After stirring for 5 h, the reaction mixture was diluted with 200 mL of water and the oil which separated was extracted into methylene chloride (3×30 mL). The combined extracts were dried (Whatman PS paper) and concentrated in vacuo, (5 g). The crude oil solidified on standing and was recrystallized from ligroin yielding 3.4 g (69.2%) of silver plate-like crystals, mp 62°-63° C.

reactant | 3-(2,4-dichlorophenoxy)-1-azetidinecarbonyl chloride | 0.017 mole, 4.8 g | ClC1=C(OC2CN(C2)C(=O)Cl)C=CC(=C1)Cl | C10H8Cl3NO2
reactant | dimethylamine | 0.05 mole, 5.8 mL | CNC | C2H7N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 3-(2,4-Dichlorophenoxy)-N,N,-dimethyl-1-azetidinecarboxamide | ClC1=C(OC2CN(C2)C(=O)N(C)C)C=CC(=C1)Cl | C12H14Cl2N2O2
